US09428470B2
B) tert-Butyl 3-(5-(benzyloxy)-2-bromophenyl)-5-(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate
An aqueous sodium hypochlorite solution (5%, 16.42 g) was added dropwise to a solution of (E)-1-(5-(benzyloxy)-2-bromophenyl)-N-hydroxymethanimine (3.07 g) and di-tert-butyl 2-methylenesuccinate (2.43 g) in THF (30 mL) at 0 C, and the obtained mixture was stirred at 0 C for 2 hours. The reaction mixture was diluted with ethyl acetate, and 1 M hydrochloric acid was added thereto. The organic layer was washed with brine and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (4.50 g).

reactant | sodium hypochlorite | 16.42 g | Cl[O-].[Na+]
reactant | (E)-1-(5-(benzyloxy)-2-bromophenyl)-N-hydroxymethanimine | 3.07 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)\C=N\O)Br | C14H12BrNO2
reactant | di-tert-butyl 2-methylenesuccinate | 2.43 g | C=C(C(=O)OC(C)(C)C)CC(=O)OC(C)(C)C | C13H22O4
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 1 M | Cl | ClH
product | tert-Butyl 3-(5-(benzyloxy)-2-bromophenyl)-5-(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate | 4.50 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C1=NOC(C1)(C(=O)OC(C)(C)C)CC(=O)OC(C)(C)C)Br | C27H32BrNO6
